US07232824B2
To a solution of 4-tert-Butoxycarbonylamino-nicotinic acid methyl ester (6.02 g, 23.86 mmol) in dioxane (100 mL) was added aq. sodium hydroxide (0.970N solution, 28.05 mL, 27.20 mmol). The solution was heated to 60° C. for 1 hr then cooled. Aqueous hydrochloric acid (1.031M solution, 26.99 mL, 27.20 mmol) was added and the mixture was extracted with chloroform (5×100 mL). The extracts were dried (MgSO4) and evaporated to give 4-tert-Butoxycarbonylamino-nicotinic acid, a cream solid (4.70 g, 83% yield) without further purification.

reactant | 4-tert-Butoxycarbonylamino-nicotinic acid methyl ester | 23.86 mmol, 6.02 g | COC(C1=CN=CC=C1NC(=O)OC(C)(C)C)=O | C12H16N2O4
reactant | sodium hydroxide | 27.20 mmol, 0.970N, 28.05 mL | [OH-].[Na+]
reactant | hydrochloric acid | 27.20 mmol, 1.031M, 26.99 mL | Cl | ClH
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 4-tert-Butoxycarbonylamino-nicotinic acid | C(C)(C)(C)OC(=O)NC1=CC=NC=C1C(=O)O | C11H14N2O4
